US07994185B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 21 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide (150 mg, 0.256 mmol) and NH4OH (2.5 mL, 17.97 mmol) heated in the microwave at 130° C. for 15 min the title compound was obtained as a light yellow solid (124 mg, 81%). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.85 (br. s., 1H), 7.90 (d, J=5.3 Hz, 1H), 7.60-7.74 (m, 1H), 7.49 (td, J=8.7, 6.1 Hz, 1H), 7.16-7.34 (m, 3H), 6.62 (s, 2H), 5.63 (d, J=5.3 Hz, 1H), 3.67-3.74 (m, 4H), 3.40-3.48 (m, 4H). MS (ESI): 566 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide | 0.256 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H16ClF4N5O3S2
reactant | NH4OH | 17.97 mmol, 2.5 mL | [NH4+].[OH-]
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18F4N6O3S2
